US07601856B2
Following the procedure of Example 1, tetrahydro-dibenzofuran-2-ylamine (1.0 g, 5.3 mmol), 4-(trifluoromethyl)benzoyl chloride (0.79 mL, 5.3 mmol), and pyridine (1.1 mL, 13 mmol) in acetonitrile (50 mL) provided N-(6,7,8,9-tetrahydrodibenzo[b,d]furan-2-yl)-4-(trifluoromethyl)benzamide (1.1 g). MS (ESI) m/z 358 ([M−H]); m/z 360 ([M+H]+).

reactant | tetrahydro-dibenzofuran-2-ylamine | 5.3 mmol, 1.0 g | C1C(CCC=2OC3=C(C21)C=CC=C3)N | C12H13NO
reactant | 4-(trifluoromethyl)benzoyl chloride | 5.3 mmol, 0.79 mL | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | pyridine | 13 mmol, 1.1 mL | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | N-(6,7,8,9-tetrahydrodibenzo[b,d]furan-2-yl)-4-(trifluoromethyl)benzamide | 1.1 g | C1=C(C=CC=2OC3=C(C21)CCCC3)NC(C3=CC=C(C=C3)C(F)(F)F)=O | C20H16F3NO2
